US04421757
4-(4-Chloro-3-dimethylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-4-thiazoline hydrobromide
5.23 g (0.01 mole) of 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(4-hydroxyphenylimino)-thiazolidin-4-ol hydrobromide in 70 ml of glacial acetic acid are heated in the course of 20 min. to boiling. After cooling, the crystallization is completed by addition of about 150 ml of diisopropyl ether, the mixture is stirred for a further hour at room temperature and filtered. Colorless crystals, m.p. 275°-279° C. (decomp.).

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(4-hydroxyphenylimino)-thiazolidin-4-ol hydrobromide | 0.01 mole, 5.23 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=C(C=C1)O)C)O)S(N(C)C)(=O)=O
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=C(C=C1)O)C)S(N(C)C)(=O)=O | InChI=1S/C18H18ClN3O3S2.BrH/c1-21(2)27(24,25)17-10-12(4-9-15(17)19)16-11-26-18(22(16)3)20-13-5-7-14(23)8-6-13;/h4-11,23H,1-3H3;1H
